US09278944B2
To a solution of 1-[4-chloro-1-(3-methoxypropyl)-3-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone (50 mg) in 1,4-dioxane (2 mL) were added trimethylboroxine (50 μL), cesium carbonate (174 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl (X-Phos) (17 mg) and tris(dibenzylideneacetone)dipalladium (8 mg) under argon, and the mixture was stirred at 80° C. for 2 hours. The reaction solution was cooled, and then thereto was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane→n-hexane/ethyl acetate=1/1) to give 1-[1-(3-methoxypropyl)-3,4-dimethyl-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone [REx(105-9)] (105 mg) as a colorless oil.

reactant | 1-[4-chloro-1-(3-methoxypropyl)-3-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone | 50 mg | ClC1=NC(=CC2=C1C(=CN2CCCOC)C)C(C)=O | C14H17ClN2O2
reactant | trimethylboroxine | 50 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | cesium carbonate | 174 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl | 17 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | 1-[1-(3-methoxypropyl)-3,4-dimethyl-1H-pyrrolo[3,2-c]pyridin-6-yl]ethanone | 105 mg | COCCCN1C=C(C=2C(=NC(=CC21)C(C)=O)C)C | C15H20N2O2
